US09302991B2
<Step-1>: 2-amino-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-4-methyloxazole-5-carboxamide (single enantiomer)
The title compound is prepared in 41% yield (92 mg, a white solid) from (+)-1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (171 mg, 0.59 mmol, Amine-5, single enantiomer) and 2-amino-4-methyloxazole-5-carboxylic acid (100 mg, 0.70 mmol) by the similar manner in Step-1 of Example 8.

reactant | (+)-1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 0.59 mmol, 171 mg | Cl.ClC=1C=C(C=NC1OCC(F)(F)F)C(C)N
reactant | 2-amino-4-methyloxazole-5-carboxylic acid | 0.70 mmol, 100 mg | NC=1OC(=C(N1)C)C(=O)O | C5H6N2O3
product | 2-amino-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-4-methyloxazole-5-carboxamide | 41% yield | NC=1OC(=C(N1)C)C(=O)NC(C)C=1C=NC(=C(C1)Cl)OCC(F)(F)F | C14H14ClF3N4O3
